US09315521B2
2-{[(4-chloro-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
This example was synthesized from 3-(bromomethyl)-4-chloro-1H-pyrazole and 6-methyl-2-sulfanylpyrimidin-4-ol following general procedure as described in the last step of Example 22. The title compound was obtained as a white solid (500 mg, 20% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 3.17 (s, 1H), 4.40 (s, 2H), 6.00 (bs, 1H), 7.93 (s, 1H); M+257.

reactant | 3-(bromomethyl)-4-chloro-1H-pyrazole | BrCC1=NNC=C1Cl | C4H4BrClN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 2-{[(4-chloro-1H-pyrazol-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | ClC=1C(=NNC1)CSC1=NC(=CC(=N1)O)C | C9H9ClN4OS
